US08491868B2
Preparation of 1-(4-Fluoro-3-methoxyphenyl)-2-nitropropan-1-ol
To a flame dried 100 mL round bottom flask was added 3-methoxy-4-fluorobenzaldehyde (367 mg, 2.38 mmol) and this was dissolved in methanol (23 mL). The reaction solution was cooled to 0° C. and nitroethane (357 mg, 4.76 mmol) was added to it followed by 5M NaOH (0.476 mL, 2.38 mmol). The solution was stirred for 80 min at 0° C. after which acetic acid (2% solution, 32 mL) was added and stirred for an additional 30 min. The reaction mixture was concentrated and water (10 mL) was added. The solution was extracted with dichloromethane (4×20 mL). The combined organic layers were washed with brine, dried over magnesium sulfate, and concentration to give afford an oil which was purified by silica gel flash chromatography using dichloromethane as eluant. Product (391 mg, 72%) product Was obtained as a colorless oil in a 1.88:1 ratio (A:B) of diastereomers. Pair A: 1H NMR (600 MHz, CDCl3): δ 7.07 (m, 1H), 7.0 (m, 1H), 6.8 (m, 1H), 5.34 (t, 1H, J=3 Hz), 4.65 (d of q, 1H, J=3.6, 6.6 Hz), 3.9 (s, 3H), 2.697 (d, 1H, J=3.6 Hz), 1.5 (d, 3H, J=6.6 Hz). 13C NMR (75 MHz, CDCl3): δ 153.3, 150.1, 147.44 (d, J=10.8 Hz), 134.1, 117.7 (d, J=7 Hz), 115.7 (d, J=18.6 Hz), 110.6, 86.8, 72.8, 55.8, 11.7. Pair B: NMR (600 MHz, CDCl3): δ 7.07 (m, 1H), 7.0 (m, 1H), 6.8 (m, 1H), 4.9 (d Of d, 1H, J=3.6, 9 Hz), 4.72 (m, 1H), 3.9 (s, 3H), 2.57 (d, 1H, J=4.2 Hz), 1.33 (d, 3H, J=5.4 Hz). 13C NMR (75 MHz, CDCl3): δ 153.8, 150.5, 147.76 (d, J=10.8 Hz), 134.1, 119 (d, J=7 Hz), 115.8 (d, J=18.6 Hz), 111, 87.7, 75.3, 55.8, 15.9. HRMS: Calc'd for C10H12FNO4 (M+Na): 252.0642; Found: 252.0643.

reactant | 3-methoxy-4-fluorobenzaldehyde | 2.38 mmol, 367 mg | COC=1C=C(C=O)C=CC1F | C8H7FO2
reactant | nitroethane | 4.76 mmol, 357 mg | [N+](=O)([O-])CC | C2H5NO2
reactant | NaOH | 2.38 mmol, 5M, 0.476 mL | [OH-].[Na+]
reactant | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 23 mL | CO | CH4O
product | 1-(4-Fluoro-3-methoxyphenyl)-2-nitropropan-1-ol | 391 mg, 72% | FC1=C(C=C(C=C1)C(C(C)[N+](=O)[O-])O)OC | C10H12FNO4
